US04268509
Preparation of 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer).
In a mixture of tetrahydrofuran (20 ml), methanol (10 ml), acetic acid (0.25 ml) and water (2.5 ml) was dissolved 4-nitrobenzyl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylate (syn isomer) (0.87 g) and thereto was added 5% palladium-carbon (0.87 g). The resulting mixture was shaken under a hydrogen atmosphere at atmospheric pressure and ambient temperature for 6 hours. The reaction mixture was filtered and the filtrate was evaporated to dryness. The residue was dissolved in an aqueous solution of sodium bicarbonate and the solution was washed with ethyl acetate. The aqueous layer was adjusted to pH 2 with 10% hydrochloric acid and extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated to dryness. The residue was triturated with diethyl ether to give the title compound (350 mg), mp. 190° to 195° C. (dec.).

reactant | methanol | 10 ml | CO | CH4O
reactant | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
reactant | water | 2.5 ml | O | H2O
reactant | 4-nitrobenzyl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylate | 0.87 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C1=NSC(=N1)N | C19H17N7O7S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.87 g | [C].[Pd]
product | 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylic acid | 350 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C1=NSC(=N1)N | C12H12N6O5S2
